US09024027B2
Step 5: Preparation of (S)-3,5-dichloro-4-(2-(3,4-dimethoxyphenyl)-2-hydroxyethyl)pyridine 1-oxide (5)
(S)-2-(3,5-dichloropyridin-4-yl)-1-(3,4-dimethoxyphenyl)ethanol (4 g, 12 mmol) was dissolved in ethyl acetate, and m-CPB acid was added to the solution. The mixture was stirred at RT for 5 hours. The formed solid was collected by filtration, washed with ethyl acetate and dried under vacuum to give 1.72 g of (−) (41% yield). Chiral HPLC analysis Rt=22.16 min; eluent:hexane:isopropanol=6:4; [α]D20=+68.91 (c=0.253, Methanol/CHCl3 1:1); 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.15 (s, 2H), 6.99 (m, 1H), 6.79-6.88 (m, 2H), 5.03 (dd, J=8.50, 5.32 Hz, 1H), 3.75-3.98 (m, 6H), 3.42 (dd, J=13.57, 8.56 Hz, 1H), 3.19 (dd, J=13.51, 5.32 Hz, 1H), 2.06-2.15 (m, 1H); MS/ESI+ [MH]+: 344.19

reactant | (S)-2-(3,5-dichloropyridin-4-yl)-1-(3,4-dimethoxyphenyl)ethanol | 12 mmol, 4 g | ClC=1C=NC=C(C1C[C@H](O)C1=CC(=C(C=C1)OC)OC)Cl | C15H15Cl2NO3
reactant | hexane | CCCCCC | C6H14
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | Methanol CHCl3 | CO.C(Cl)(Cl)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-3,5-dichloro-4-(2-(3,4-dimethoxyphenyl)-2-hydroxyethyl)pyridine 1-oxide | 41% yield | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC)OC)Cl)[O-] | C15H15Cl2NO4
